US05292732
3,4-Dihydro-1-methyl-6-phenylpyrrolo[1,2-a]pyrazine (0.6 g) was dissolved in 10 ml of ethanol and treated with 0.9 ml of methyl iodide under argon. The solution was boiled overnight, cooled and the separated crystals were filtered off. There was obtained 0.8 g (78%) of 3,4-dihydro-1,2-dimethyl-6-phenylpyrrolo[1,2-a]pyrazinium iodide; m.pt.: 213°-216° C. (dec.).

reactant | 3,4-Dihydro-1-methyl-6-phenylpyrrolo[1,2-a]pyrazine | 0.6 g | CC=1C=2N(CCN1)C(=CC2)C2=CC=CC=C2 | C14H14N2
reactant | methyl iodide | 0.9 ml | CI | CH3I
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3,4-dihydro-1,2-dimethyl-6-phenylpyrrolo[1,2-a]pyrazinium iodide | 0.8 g, 78% | [I-].CC=1C=2N(CC[N+]1C)C(=CC2)C2=CC=CC=C2 | InChI=1S/C15H17N2.HI/c1-12-14-8-9-15(13-6-4-3-5-7-13)17(14)11-10-16(12)2;/h3-9H,10-11H2,1-2H3;1H/q+1;/p-1
